US05037986
A solution of 19 g (0.10 mole) of 4-hydroxy-3-nitroquinoline, 200 mL of dichloromethane, 10 mL of N,N-dimethylformamide and 10 mL of phosphorus oxychloride was stirred at about 20° C. for 30 minutes and then heated at its reflux temperature for 30 minutes. The solution was cooled to about 20° C. and diluted with 300 mL of diethyl ether. This solution was stirred for 30 minutes at 20° C., treated with decolorizing charcoal and filtered through celite. The filtrate was washed repeatedly with 200 mL portions of cold sodium bicarbonate solution until foaming stopped and the washings were basic. The solution containing 4-chloro-3-nitroquinoline was dried over magnesium sulfate and filtered and evaporated in vacuo. To the solid was added a mixture of 20 g of tertiary-butylamine and 100 mL of N,N-dimethylformamide and the mixture was heated on a steam bath for about one hour. To this mixture was added about 200 mL of water and the product was isolated by filtration and recrystallized from hexane to provide N-(1,1-dimethylethyl)-3-nitro-4-quinolinamine, m.p. 106°-108° C. Analysis: Calculated for C13H15N3O2 : %C, 63.7; %H, 6.2; %N, 17.1; Found: %C, 64.0; %H, 6.3; %N, 17.1.

reactant | 4-hydroxy-3-nitroquinoline | 0.10 mole, 19 g | OC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | dichloromethane | 200 mL | ClCCl | CH2Cl2
reactant | phosphorus oxychloride | 10 mL | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | charcoal | C | CH4
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N-(1,1-dimethylethyl)-3-nitro-4-quinolinamine | CC(C)(C)NC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C13H15N3O2
